### PR TITLE
[Merged by Bors] - feat(Topology/Semicontinuity/Hemicontinuity): sequential characterizations of hemicontinuity

### PR DESCRIPTION
**Pull request by khwilson**
We prove two things: First, we prove a sequential characterization of lower hemicontinuity in terms of sequences. `LowerHemicontinuousAt.of_sequences`

Second, we show that upper and lower hemicontinuity are preserved under uniform limits in the Hausdorff uniformity.

N.B. the increase in imports comes from importing uniformity structures (including the Hausdorff uniformity). If preferred, I can break these uniform convergence lemmas out into their own file to minimize imports in this file.

AI Disclosure: Initial proof outlined by me, lean statement written by me, initial draft of lean proof provided by claude code, then I provided edits, comments, and docstrings

- [x] depends on: #38601 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean [hunk 1]
```diff
@@ -394,18 +401,35 @@ lemma UpperHemicontinuousAt.mem_of_tendsto {ι : Type*} [RegularSpace β] {x₀
...
   exact interior_subset <| hn hyn
 
+/-- **Sequential characterization of lower hemicontinuity**:
+A set-valued function `f : α → Set β` is lower hemicontinuous at `x₀ : α` if for every sequence
+`x : ℕ → α` tending to `x₀` and every `y₀ ∈ f x₀`, there exists a sequence `y : ℕ → β` with
+`y n ∈ f (x n)` for all `n` that tends to `y₀`. -/
+lemma LowerHemicontinuousAt.of_sequences {x₀ : α} [(𝓝 x₀).IsCountablyGenerated]
+    (h : ∀ x : ℕ → α, Tendsto x atTop (𝓝 x₀) →
+      ∀ y₀ ∈ f x₀, ∃ y : ℕ → β, (∀ n, y n ∈ f (x n)) ∧ Tendsto y atTop (𝓝 y₀)) :
+    LowerHemicontinuousAt f x₀ := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Semicontinuity/Hemicontinuity.lean:409]: It would be nice to also include the reverse direction (like we have `UpperHemicontinuousAt.mem_of_tendsto`), although maybe you need to pass to subsequences?

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean [hunk 2]
```diff
@@ -429,3 +453,88 @@ lemma LowerHemicontinuous.inter_hasOpenCGraph {f g : α → Set β}
...
+  filter_upwards [hSmeet, self_mem_nhdsWithin] with x ⟨w, hwFN, hwball⟩ hx_s
+  obtain ⟨v, hvf, hvw⟩ := ((mem_hausdorffEntourage U (f x) (F N x)).mp (hN x hx_s)).2 hwFN
+  exact ⟨v, hvf, hWsub <| hU₁comp
+    ⟨w, hUcomp ⟨z₀, hz₀y₀, hU'sub hwball⟩, hU_le_U₁ (hUsym.symm _ _ hvw)⟩⟩
+
+/-- A net of upper hemicontinuous compact-valued set-valued functions converging uniformly on `s`
+(along a filter `l`) in the Hausdorff uniformity has an upper hemicontinuous limit on `s` -/
+theorem TendstoUniformlyOn.upperHemicontinuousOn (htendsto : TendstoUniformlyOn F f l s)
+    (hF : ∀ n, UpperHemicontinuousOn (F n) s) (hf_compact : ∀ x ∈ s, IsCompact (f x)) :
+    UpperHemicontinuousOn f s := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Semicontinuity/Hemicontinuity.lean:553]: documenting the proof of this with comments is also appreciated.

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean [hunk 3]
```diff
@@ -429,3 +453,88 @@ lemma LowerHemicontinuous.inter_hasOpenCGraph {f g : α → Set β}
...
+  have hmeet₀ : (F N x₀ ∩ ball z₀ U').Nonempty := ⟨z₀, hz₀FN, mem_ball_self z₀ hU'mem⟩
+  have hSmeet : ∀ᶠ x in 𝓝[s] x₀, (F N x ∩ ball z₀ U').Nonempty :=
+    lowerHemicontinuousWithinAt_iff.mp (hF _ _ hx₀s) _ (isOpen_ball _ hU'open) hmeet₀
+  filter_upwards [hSmeet, self_mem_nhdsWithin] with x ⟨w, hwFN, hwball⟩ hx_s
+  obtain ⟨v, hvf, hvw⟩ := ((mem_hausdorffEntourage U (f x) (F N x)).mp (hN x hx_s)).2 hwFN
+  exact ⟨v, hvf, hWsub <| hU₁comp
+    ⟨w, hUcomp ⟨z₀, hz₀y₀, hU'sub hwball⟩, hU_le_U₁ (hUsym.symm _ _ hvw)⟩⟩
+
+/-- A net of upper hemicontinuous compact-valued set-valued functions converging uniformly on `s`
+(along a filter `l`) in the Hausdorff uniformity has an upper hemicontinuous limit on `s` -/
```
Comment (j-loreaux) [inline Mathlib/Topology/Semicontinuity/Hemicontinuity.lean]:
```suggestion
/-- A net of upper hemicontinuous set-valued functions converging uniformly on `s`
(along a filter `l`) in the Hausdorff uniformity to a compact-valued set-valued function has an
upper hemicontinuous limit on `s` -/
```

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean [hunk 4]
```diff
@@ -429,3 +453,88 @@ lemma LowerHemicontinuous.inter_hasOpenCGraph {f g : α → Set β}
...
+
+/-- A net of lower hemicontinuous set-valued functions converging uniformly (along a
+filter `l`) in the Hausdorff uniformity has a lower hemicontinuous limit -/
+theorem TendstoUniformly.lowerHemicontinuous (htendsto : TendstoUniformly F f l)
+    (hF : ∀ n, LowerHemicontinuous (F n)) : LowerHemicontinuous f := by
+  rw [← lowerHemicontinuousOn_univ_iff]
+  exact htendsto.tendstoUniformlyOn.lowerHemicontinuousOn (fun n ↦ (hF n).lowerHemicontinuousOn _)
+
+/-- A net of upper hemicontinuous compact-valued set-valued functions converging uniformly
+(along a filter `l`) in the Hausdorff uniformity has an upper hemicontinuous limit -/
```
Comment (j-loreaux) [inline Mathlib/Topology/Semicontinuity/Hemicontinuity.lean]:
```suggestion
/-- A net of upper hemicontinuous set-valued functions converging uniformly (along a filter `l`)
in the Hausdorff uniformity to a compact-valued set-valued function has an
upper hemicontinuous limit -/
```

**Review by j-loreaux — COMMENTED** [review]
This looks okay. It's not something to address in this PR, and maybe not at all, but I notice that in many applications involving upper hemicontinuity one wishes for compact-valued correspondences, and we could actually phrase this quite easily with `TopologicalSpace.Compacts`, but then we would need to compose this with the coercion to `Set` in order to talk about hemicontinuity. Note that `TopologicalSpace.Compacts` *already* is equipped with the Hausdorff uniformity. So, it might be nice to provide some glue API linking these up at some point, but I don't yet have a good idea what lemmas would be best to have.

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean (hunk 3 above)
Comment (khwilson) [reply Mathlib/Topology/Semicontinuity/Hemicontinuity.lean]: Oh good catch on the phrasing.

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean (hunk 4 above)
Comment (khwilson) [reply Mathlib/Topology/Semicontinuity/Hemicontinuity.lean]: Ditto.

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean (hunk 2 above)
Comment (khwilson) [reply Mathlib/Topology/Semicontinuity/Hemicontinuity.lean:553]: Done!

**Comment by khwilson** [comment]
-awaiting-author

**Comment by khwilson** [comment]
Made the requested changes and added the partial converse. There's a few potential partial converses depending on what you want to allow the domain of the sequence to be. I went with keeping the sequence with domain `Nat`, which makes the proof easier. The obvious extension would be taking a countably generated filter `l` that has trivial kernel (this roughly parallels "escapes to infinity"). But I didn't see much in the library about "has trivial kernel" and I didn't see much upside of introducing this complication.

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean (hunk 1 above)
Comment (khwilson) [reply Mathlib/Topology/Semicontinuity/Hemicontinuity.lean:409]: See comment below about generality.

**Comment by khwilson** [comment]
To your question about specializing to `TopologicalSpace.Compacts`, other theorems like the values to be closed (see Michael's Selection Theorem, still to be reviewed :-) ), and `TopologicalSpace.Closeds` (and `Clopens`) also exists. If this is more generally useful, maybe the idea would be to characterize these objects?

There's probably some analogy along the lines of "regular/T3 is to neighborhoods of points as normal/T4 is to neighborhoods of sets" that you'd need to draw on.

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean [hunk 5]
```diff
@@ -392,18 +399,84 @@ lemma UpperHemicontinuousAt.mem_of_tendsto {ι : Type*} [RegularSpace β] {x₀
...
+  intro U hU ⟨y₀, hy₀f, hy₀U⟩
+  by_contra hc
+  rw [Filter.not_eventually] at hc
+  obtain ⟨x, hx, hxU⟩ := exists_seq_forall_of_frequently hc
+  obtain ⟨y, hy_mem, hy_lim⟩ := h x hx y₀ hy₀f
+  obtain ⟨n, hn⟩ := (hy_lim.eventually (hU.mem_nhds hy₀U)).exists
+  exact hxU n ⟨y n, hy_mem n, hn⟩
+
+/-- **Sequential characterization of lower hemicontinuity**:
+If `f : α → Set β` is lower hemicontinuous at `x₀`, `β` is first countable at `y₀ ∈ f x₀`, and
```
Comment (j-loreaux) [inline Mathlib/Topology/Semicontinuity/Hemicontinuity.lean]: I've never heard this referred to as "first countable at"
```suggestion
If `f : α → Set β` is lower hemicontinuous at `x₀`, `y₀ ∈ f x₀`, `𝓝 y₀` is countably generated, and
```

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean [hunk 6]
```diff
@@ -392,18 +399,84 @@ lemma UpperHemicontinuousAt.mem_of_tendsto {ι : Type*} [RegularSpace β] {x₀
...
+    simpa only [y, dif_pos h] using h.some_mem
+  refine ⟨y, (hev 0).mono (by grind), ?_⟩
+  -- Have to show for all `k`, eventually, all `y n ∈ U k`.
+  rw [hUbasis.tendsto_right_iff]
+  intro k _
+  filter_upwards [hev k, eventually_ge_atTop k] with n hk hkn
+  exact hUbasis.antitone (Nat.le_findGreatest hkn hk) (hy n (key n k hkn hk)).2
+
+/-- **Lower hemicontinuity along a countably generated filter** (subsequence form):
+if `f : α → Set β` is lower hemicontinuous at `x₀`, `β` is first countable at `y₀ ∈ f x₀`, and
```
Comment (j-loreaux) [inline Mathlib/Topology/Semicontinuity/Hemicontinuity.lean]:
```suggestion
if `f : α → Set β` is lower hemicontinuous at `x₀`, `y₀ ∈ f x₀`, `𝓝 y₀` is countably generated and
```

**Comment by j-loreaux** [comment]
bors d+

File: Mathlib/Topology/Semicontinuity/Hemicontinuity.lean (hunk 5 above)
Comment (khwilson) [reply Mathlib/Topology/Semicontinuity/Hemicontinuity.lean]: I perhaps went a little overboard in analogizing `ContinuousAt` and `LowerHemicontinuousAt` etc into `FirstCountableAt`. `_At` meaning "topological property at a point" doesn't seem to be a bad convention, but definitely not standard meaning :-)
